US08030515B2
In 42 g of dimethyl sulfoxide were dissolved 10.0 g (0.035 mole) of 1,4-dibromo-1,1,2,2-tetrafluorobutane and 5.0 g (0.035 mole) of sodium benzoate, which was stirred at 60° C. for 3.5 hours. The reaction solution was cooled to room temperature, after which toluene and water were added. The organic layer was taken out and washed once with 20 g of an aqueous saturated sodium hydrogen carbonate solution and twice with 20 g of an aqueous saturated sodium chloride solution. The organic layer was concentrated under reduced pressure, obtaining a compound, 4-bromo-3,3,4,4-tetrafluorobutyl benzoate. Colorless oily matter, 4.1 g.

reactant | 1,4-dibromo-1,1,2,2-tetrafluorobutane | 0.035 mole, 10.0 g | BrC(C(CCBr)(F)F)(F)F | C4H4Br2F4
reactant | sodium benzoate | 0.035 mole, 5.0 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 42 g | CS(=O)C | C2H6OS
product | 4-bromo-3,3,4,4-tetrafluorobutyl benzoate | C(C1=CC=CC=C1)(=O)OCCC(C(F)(F)Br)(F)F | C11H9BrF4O2
